### PR TITLE
feat: more lemmas about algebraically closed nimbers

### PR DESCRIPTION
**Pull request by plp127**
Also section them off into a section.

### CODE REVIEW

File: CombinatorialGames/Nimber/SimplestExtension/Algebraic.lean [hunk 1]
```diff
@@ -353,6 +356,47 @@ theorem IsAlgClosed.isRing_opow_omega0 {t : Nimber} (ht : IsAlgClosed t) :
...
+
+theorem transcendental : Transcendental ht.toSubfield t := by
+  rw [transcendental_iff]
+  intro p hp
+  rw [aeval_def, eval₂_eq_eval_map, Subfield.algebraMap_ofSubfield,
+    ht.eval_eq_of_lt fun k => (coeff_map _ k).trans_lt (p.coeff k).2, ← oeval_zero t,
+    oeval_inj (fun k => (coeff_map _ k).trans_lt (p.coeff k).2) (by simp [ht.zero_lt])] at hp
+  simpa using hp
+
+theorem algebraAdjoin_simple_self :
```
Comment (vihdzp) [inline CombinatorialGames/Nimber/SimplestExtension/Algebraic.lean:377]: I suspect this is what you meant?
```suggestion
theorem algebraAdjoin_singleton_self :
```

File: CombinatorialGames/Nimber/SimplestExtension/Algebraic.lean [hunk 2]
```diff
@@ -342,8 +342,11 @@ theorem IsField.pow_degree_leastNoRoots {x : Nimber} (hf : IsField x) (ht) {n :
       rw [map_add, map_mul, hs] at hi
       simpa using congrArg hxr.toSubring.subtype hi
 
-theorem IsAlgClosed.isRing_opow_omega0 {t : Nimber} (ht : IsAlgClosed t) :
-    IsRing (of (val t ^ ω)) where
+namespace IsAlgClosed
+variable {t : Nimber} (ht : IsAlgClosed t)
+include ht
+
+theorem isRing_opow_omega0 : IsRing (of (val t ^ ω)) where
```
Comment (vihdzp) [inline CombinatorialGames/Nimber/SimplestExtension/Algebraic.lean:350]: This should be true for a (non-algebraically closed) field as well. Can you leave a TODO?

File: CombinatorialGames/Nimber/SimplestExtension/Algebraic.lean [hunk 3]
```diff
@@ -353,6 +356,47 @@ theorem IsAlgClosed.isRing_opow_omega0 {t : Nimber} (ht : IsAlgClosed t) :
       ← eval_mul, ht.eval_eq_of_lt (ht.coeff_mul_lt hyd hzd)]
     exact oeval_lt_opow_omega0 (ht.coeff_mul_lt hyd hzd)
 
+theorem ringClosure_eq : ringClosure (succ t) = of (val t ^ ω) := by
+  apply le_antisymm
+  · rw [ht.isRing_opow_omega0.ringClosure_le_iff, succ_le_iff]
+    exact val_lt_iff.1 (left_lt_opow (one_lt_val.2 ht.one_lt) one_lt_omega0)
```
Comment (vihdzp) [inline CombinatorialGames/Nimber/SimplestExtension/Algebraic.lean:363]: This also works (you can even remove `val_lt_iff` if you feel abusive)
```suggestion
  · rw [ht.isRing_opow_omega0.ringClosure_le_iff, succ_le_iff, ← val_lt_iff]
    exact left_lt_opow (one_lt_val.2 ht.one_lt) one_lt_omega0
```

File: CombinatorialGames/Nimber/SimplestExtension/Algebraic.lean [hunk 4]
```diff
@@ -353,6 +356,47 @@ theorem IsAlgClosed.isRing_opow_omega0 {t : Nimber} (ht : IsAlgClosed t) :
...
+  · refine le_of_forall_lt fun c hc => ?_
+    obtain ⟨p, hpc, hpr⟩ := eq_oeval_of_lt_opow_omega0 hc
+    have htr := (lt_succ t).trans_le (le_ringClosure (succ t))
+    rw [← hpr, ← ht.eval_eq_of_lt hpc]
+    exact (IsRing.ringClosure (succ t)).eval_lt (fun k => (hpc k).trans htr) htr
```
Comment (vihdzp) [inline CombinatorialGames/Nimber/SimplestExtension/Algebraic.lean]:
```suggestion
    exact (IsRing.ringClosure _).eval_lt (fun k => (hpc k).trans htr) htr
```

File: CombinatorialGames/Nimber/SimplestExtension/Algebraic.lean [hunk 5]
```diff
@@ -353,6 +356,47 @@ theorem IsAlgClosed.isRing_opow_omega0 {t : Nimber} (ht : IsAlgClosed t) :
...
+
+theorem transcendental : Transcendental ht.toSubfield t := by
```
Comment (vihdzp) [inline CombinatorialGames/Nimber/SimplestExtension/Algebraic.lean]: Does it make sense to protect this?

File: CombinatorialGames/Nimber/SimplestExtension/Algebraic.lean [hunk 6]
```diff
@@ -353,6 +356,47 @@ theorem IsAlgClosed.isRing_opow_omega0 {t : Nimber} (ht : IsAlgClosed t) :
...
+  rw [transcendental_iff]
+  intro p hp
+  rw [aeval_def, eval₂_eq_eval_map, Subfield.algebraMap_ofSubfield,
+    ht.eval_eq_of_lt fun k => (coeff_map _ k).trans_lt (p.coeff k).2, ← oeval_zero t,
```
Comment (vihdzp) [inline CombinatorialGames/Nimber/SimplestExtension/Algebraic.lean]: I think an `oeval_eq_zero_iff` lemma would be good to have.

File: CombinatorialGames/Nimber/SimplestExtension/Algebraic.lean [hunk 7]
```diff
@@ -353,6 +356,47 @@ theorem IsAlgClosed.isRing_opow_omega0 {t : Nimber} (ht : IsAlgClosed t) :
...
+    oeval_inj (fun k => (coeff_map _ k).trans_lt (p.coeff k).2) (by simp [ht.zero_lt])] at hp
+  simpa using hp
```
Comment (vihdzp) [inline CombinatorialGames/Nimber/SimplestExtension/Algebraic.lean]: This is just calling the lemma `Polynomial.map_eq_zero` so it might be easier to just add it to the `rw`.

File: CombinatorialGames/Nimber/SimplestExtension/Algebraic.lean [hunk 8]
```diff
@@ -353,6 +356,47 @@ theorem IsAlgClosed.isRing_opow_omega0 {t : Nimber} (ht : IsAlgClosed t) :
...
+
+theorem algebraAdjoin_simple_self :
+    (Algebra.adjoin ht.toSubfield {t}).toSubring = ht.isRing_opow_omega0.toSubring := by
+  apply SetLike.ext'
+  have hta : ht.toSubfield = Set.Iio t := by ext; simp
```
Comment (vihdzp) [inline CombinatorialGames/Nimber/SimplestExtension/Algebraic.lean]: I think this is pointing to a missing lemma `coe_toSubfield` (and its variants)

File: CombinatorialGames/Nimber/SimplestExtension/Algebraic.lean [hunk 9]
```diff
@@ -353,6 +356,47 @@ theorem IsAlgClosed.isRing_opow_omega0 {t : Nimber} (ht : IsAlgClosed t) :
...
+  rw [Algebra.adjoin_eq_ring_closure, union_singleton,
+    Subfield.algebraMap_ofSubfield, ← RingHom.coe_fieldRange,
+    Subfield.fieldRange_subtype, hta, Set.Iio_insert, ← Iio_succ,
+    coe_subringClosure_Iio, ht.ringClosure_eq]
+  ext; simp
```
Comment (vihdzp) [inline CombinatorialGames/Nimber/SimplestExtension/Algebraic.lean]: You could use that same lemma here (or just use `rfl` if you want)

File: CombinatorialGames/Nimber/SimplestExtension/Algebraic.lean [hunk 10]
```diff
@@ -353,6 +356,47 @@ theorem IsAlgClosed.isRing_opow_omega0 {t : Nimber} (ht : IsAlgClosed t) :
...
+
+theorem fieldAdjoin_simple_self :
```
Comment (vihdzp) [inline CombinatorialGames/Nimber/SimplestExtension/Algebraic.lean:385]: Likewise
```suggestion
theorem fieldAdjoin_singleton_self :
```

File: CombinatorialGames/Nimber/SimplestExtension/Algebraic.lean (hunk 1 above)
Comment (plp127) [reply CombinatorialGames/Nimber/SimplestExtension/Algebraic.lean:377]: This was named in analogy to the `fieldAdjoin_simple_self` lemma, since it's `Algebra.adjoin` instead of `IntermediateField.adjoin`.

File: CombinatorialGames/Nimber/SimplestExtension/Algebraic.lean (hunk 2 above)
Comment (plp127) [reply CombinatorialGames/Nimber/SimplestExtension/Algebraic.lean:350]: hmm, you're right! it is true! wow! amazing!

File: CombinatorialGames/Nimber/SimplestExtension/Algebraic.lean (hunk 10 above)
Comment (plp127) [reply CombinatorialGames/Nimber/SimplestExtension/Algebraic.lean:385]: It is common in mathlib to refer to `IntermediateField.adjoin _ {_}` as `adjoin_simple`.

File: CombinatorialGames/Nimber/SimplestExtension/Algebraic.lean (hunk 3 above)
Comment (plp127) [reply CombinatorialGames/Nimber/SimplestExtension/Algebraic.lean:363]: I expect there will be a lot of proofs with `val_lt_iff.1 (left_lt_opow (one_lt_val.2 ht.one_lt) one_lt_omega0)` and keeping them together will make find-and-replace easier.

File: CombinatorialGames/Nimber/SimplestExtension/Algebraic.lean (hunk 4 above)
Comment (plp127) [reply CombinatorialGames/Nimber/SimplestExtension/Algebraic.lean]: This doesn't seem to accomplish anything.

File: CombinatorialGames/Nimber/SimplestExtension/Algebraic.lean (hunk 5 above)
Comment (plp127) [reply CombinatorialGames/Nimber/SimplestExtension/Algebraic.lean]: I certainly don't see a reason to not protect it

File: CombinatorialGames/Nimber/SimplestExtension/Algebraic.lean (hunk 4 above)
Comment (vihdzp) [reply CombinatorialGames/Nimber/SimplestExtension/Algebraic.lean]: Just gets rid of a bit of clutter. I think we generally like to avoid writing down values if they can be inferred.

File: CombinatorialGames/Nimber/SimplestExtension/Algebraic.lean (hunk 6 above)
Comment (plp127) [reply CombinatorialGames/Nimber/SimplestExtension/Algebraic.lean]: #385

File: CombinatorialGames/Nimber/SimplestExtension/Basic.lean [hunk 11]
```diff
@@ -107,6 +107,7 @@ def IsGroup.toAddSubgroup (h : IsGroup x) : AddSubgroup Nimber where
 
 @[simp] theorem val_toAddSubgroup_lt (h : IsGroup x) (y : h.toAddSubgroup) : y < x := y.2
 @[simp] theorem mem_toAddSubgroup_iff (h : IsGroup x) : y ∈ h.toAddSubgroup ↔ y < x := .rfl
+@[simp] theorem coe_toAddSubgroup (h : IsGroup x) : SetLike.coe h.toAddSubgroup = Set.Iio x := rfl
```
Comment (vihdzp) [inline CombinatorialGames/Nimber/SimplestExtension/Basic.lean]: Is writing `SetLike.coe` explicitly necessary? Does writing an ↑ or omitting it completely work?

File: CombinatorialGames/Nimber/SimplestExtension/Algebraic.lean [hunk 12]
```diff
@@ -342,8 +342,12 @@ theorem IsField.pow_degree_leastNoRoots {x : Nimber} (hf : IsField x) (ht) {n :
       rw [map_add, map_mul, hs] at hi
       simpa using congrArg hxr.toSubring.subtype hi
 
-theorem IsAlgClosed.isRing_opow_omega0 {t : Nimber} (ht : IsAlgClosed t) :
-    IsRing (of (val t ^ ω)) where
+namespace IsAlgClosed
+variable {t : Nimber} (ht : IsAlgClosed t)
+include ht
+
+-- todo: generalize to `IsField x`, and prove `IsField (of (val t ^ ω))` when `¬IsAlgClosed x`
```
Comment (vihdzp) [inline CombinatorialGames/Nimber/SimplestExtension/Algebraic.lean]:
```suggestion
-- todo: generalize to `IsField x`, and prove `IsField (of (val t ^ ω))` when `¬IsAlgClosed t`
```

**Review by vihdzp — APPROVED** [review]
Sorry, forgot to finish the review.
